US07157488B2
7-Fluorotryptamine oxalate
Dissolve 2-(2-(7-fluoro-1H-indol-3-yl)ethyl)isoindole-1,3-dione in 25 mL of THF. Add ethanolamine (63.4 g, 62.65 mL, 1038 mmol, 100 eq.) with vigorous stirring and heat to 70° C. After 1.5 hours, cool to room temperature. After 18 hours, pour reaction mixture into of water (250 mL) containing of 5N NaOH (3 mL) and extract with Et2O (2×200 mL). Combine the organic layers and wash with 0.1N NaOH. Collect the organic layer, dry over MgSO4, filter, and remove the solvent in vacuo to give the title compound as a yellow oil.

reactant | 2-(2-(7-fluoro-1H-indol-3-yl)ethyl)isoindole-1,3-dione | FC=1C=CC=C2C(=CNC12)CCN1C(C2=CC=CC=C2C1=O)=O | C18H13FN2O2
reactant | ethanolamine | 1038 mmol, 62.65 mL, 63.4 g, 100 eq. | C(O)CN | C2H7NO
reactant | water | 250 mL | O | H2O
reactant | NaOH | 5N, 3 mL | [OH-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 7-Fluorotryptamine oxalate | C(C(=O)O)(=O)O.FC1=C2NC=C(CCN)C2=CC=C1 | InChI=1S/C10H11FN2.C2H2O4/c11-9-3-1-2-8-7(4-5-12)6-13-10(8)9;3-1(4)2(5)6/h1-3,6,13H,4-5,12H2;(H,3,4)(H,5,6)
